US05306827
Preparation of 2-(p-Chlorophenyl)-5-[(trifluoromethyl)sulfonyl]pyrrole-3-carbonitrile
A solution of 2-(p-chlorophenyl)-5-[(trifluoromethyl)thio]pyrrole-3-carbonitrile (0.6 g, 0.002 mol) in acetic acid is treated portionwise with 30% hydrogen peroxide solution (0.6 mL, 0.006 mol), stirred for 11/2 hours at 90° C., treated with additional hydrogen peroxide (0.3 mL, 0.003 mol), stirred for two hours at 90° C., stirred for 16 hours at room temperature and diluted with an ethyl acetate/water mixture. The organic phase is separated, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a solid. The solid is recrystallized from ethylene dichloride to give the title product as a beige solid (mp 228°-230° C.) which is identified by 1HNMR and 13CNMR spectral analyses.

reactant | 2-(p-chlorophenyl)-5-[(trifluoromethyl)thio]pyrrole-3-carbonitrile | 0.002 mol, 0.6 g | ClC1=CC=C(C=C1)C=1NC(=CC1C#N)SC(F)(F)F | C12H6ClF3N2S
reactant | hydrogen peroxide | 0.006 mol, 0.6 mL | OO | H2O2
reactant | hydrogen peroxide | 0.003 mol, 0.3 mL | OO | H2O2
reactant | ethyl acetate water | C(C)(=O)OCC.O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(p-Chlorophenyl)-5-[(trifluoromethyl)sulfonyl]pyrrole-3-carbonitrile | ClC1=CC=C(C=C1)C=1NC(=CC1C#N)S(=O)(=O)C(F)(F)F | C12H6ClF3N2O2S
